US08609688B2
4-Benzyl-N,N-dimethylmorpholine-2-carboxamide
Oxalyl chloride (372 μL, 4.27 mmol) was added to a mixture of 4-benzylmorpholine-2-carboxilic acid hydrochloride (1.00 g, 3.88 mmol) and N,N-dimethylformamide (15.0 μL, 0.194 mmol) in DCE (20 mL). The mixture was heated at 65° C. for 3 hours. After cooling to 0° C., Me2NH (2M solution in THF, 9.70 mL, 19.4 mmol) was added. The mixture was stirred at room temperature for 4 hours. The mixture was concentrated and the residue was diluted with water and extracted with EtOAc (3×). The combined organic layers were dried over anhydrous Na2SO4 and concentrated to afford desired product (803 mg, 83.4%) as brown oil.

reactant | Oxalyl chloride | 4.27 mmol, 372 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-benzylmorpholine-2-carboxilic acid hydrochloride | 3.88 mmol, 1.00 g | Cl.C(C1=CC=CC=C1)N1CC(OCC1)C(=O)O
reactant | Me2NH | 19.4 mmol, 2M, 9.70 mL | N(C)C | C2H7N
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
catalyst | N,N-dimethylformamide | 0.194 mmol, 15.0 μL | CN(C=O)C | C3H7NO
product | 4-Benzyl-N,N-dimethylmorpholine-2-carboxamide | 803 mg, 83.4% | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)N(C)C | C14H20N2O2
